US04123455
A mixture of 40 ml of sulfuric acid and 33 ml of nitric acid is stirred for 10 minutes and then 10 ml of acetic acid is added. To this is added a suspension of 10 g of 2-hydroxyisophthalic acid (Org. Syn., Vol. 5, p. 617) in 20 ml of acetic acid slowly with cooling in a water bath. A 10 ml portion of acetic acid is added. The reaction mixture is dissolved in water and extracted with ether. The ether is washed with saturated saline, dried over sodium sulfate and evaporated giving 5-nitro-2-hydroxyisophthalic acid as an orange oil.

reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 33 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-hydroxyisophthalic acid | 10 g | OC1=C(C(=O)O)C=CC=C1C(=O)O | C8H6O5
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-nitro-2-hydroxyisophthalic acid | [N+](=O)([O-])C=1C=C(C(=C(C(=O)O)C1)O)C(=O)O | C8H5NO7
